Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Cipro
 
Attending: ___
 
Chief Complaint:
cat bite
 
Major Surgical or Invasive Procedure:
___: left index finger flexor tendon incision and drainage

 
History of Present Illness:
___ with
history of migraines and anxiety who presents to the ED with 
hand
erythema and edema following a cat bite. She initially presented
to ___ where she was treated with IV Unasyn.  She noted
improvement after the first dose.  She was subsequently started
on PO abx but worsened on this and therefore returned to the ED
today for two additional doses of IV unasyn, however edema,
erythema and pain progressed following those doses, prompting
transfer to ___ for hand surgery eval.  She denies any fever,
numbness or tingling in the finger.  Per notes, she is UTD on
tetanus and her cat is UTD on vaccines as well and is an indoor
cat.
 
Past Medical History:
migraines and anxiety
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On admission:
AOx3, breathing comfortably, sitting up in bed
no abdominal distention
no lower extremity edema
LUE: Splinted and elevated in a volar resting splint, index 
finger has some minor pain on passive stretch but multiple teeth 
entry sites, with tenderness along the flexor tendon sheath and 
nowhere else.  erythema but the tenderness extends beyond the 
erythema.

Discharge:
AOx3, breathing comfortably, sitting up in bed
no abdominal distention
no lower extremity edema
LUE: Splinted and elevated in a volar resting splint, her
fingertips are warm and well-perfused with 1 second capillary
refill.  Her index finger is numb to the base of the index
finger, but there is no tenderness anymore along the flexor
tendon sheath even proximally along the palm and proximally 
along
the hand.her swelling is nearly resolved, incisions are dry, no 
purulent drainage, no pain on passive stretch.
 
Pertinent Results:
___ 09:44PM BLOOD WBC-6.7 RBC-4.11 Hgb-12.4 Hct-37.2 MCV-91 
MCH-30.2 MCHC-33.3 RDW-12.9 RDWSD-42.5 Plt ___
___ 06:50AM BLOOD WBC-8.8 RBC-3.79* Hgb-11.6 Hct-33.9* 
MCV-89 MCH-30.6 MCHC-34.2 RDW-12.1 RDWSD-39.7 Plt ___
___ 09:44PM BLOOD Glucose-86 UreaN-11 Creat-0.7 Na-140 
K-4.2 Cl-104 HCO3-23 AnGap-13

Xray of hand: no evidence of fracture or foreign body in left 
hand
 
Brief Hospital Course:
___ was admitted to the hospital for IV antibiotics following a 
cat bite. she was splinted and elevated. On HD2, she was noted 
to have tendernss along the flexor tendon sheath and was taken 
to the OR for washout of the left index finger flexor tendon. 
Pus was found and sent for culture and she was kept on unasyn. 
she was allowed to eat after and irrigated overnight with a tube 
left inside her tendon sheath. by POD1 her symptoms were much 
better and the tube was removed. she was kept on IV abx and 
cultures were pending. On POD2 she was transitioned to oral 
antibiotics as she continued to improve. cultures did not have 
any growth, and she was placed on augmentin. on POD3, her 
symptoms and erythema resolved completely and she was ready for 
discharge, sent in a splint for another day. she was given 
explicit follow up instructions and teaching about wha to look 
out for in terms of signs of infection. her pain was well 
controlled, she was voiding and ambulating on her own.she was 
sent on another 5 days of augmentin to complete a 7 day course 
of antibiotics from the date of her surgery.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine 50 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every 12 hours Disp #*10 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
do not drink alcohol or drive while taking this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*10 
Tablet Refills:*0 
5.  Venlafaxine 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left index finger flexor tenosynovitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You can take off your splint tomorrow and keep the incisions 
wrapped with a dry dressing and an ace wrap for compression. You 
may shower but do not soak your fingers underwater. just let 
water run over them. If you have any worsening symptoms, please 
call Dr. ___, and if you can't get a hold of us, do 
not hesitate to come back to the hospital. continue to take 
antibiotics as instructed.
 
Followup Instructions:
___